**************************************************
* Manufacturer:       Wurth Elektronik 
* Kinds:     RadialLeadedWireWound Inductor
* Matchcode:          WE-TI_HV
* Library Type:       spice
* Version:        rev19b
* Created/modified by:    Fredo       
* Date and Time   :       6/20/2019
* Team:           eiSos EDA Service  
* Contact:        libraries@we-online.com
**************************************************
.subckt 8095_768772332_3.3m 1 2
Rp 1 2 1395.08641624
Cp 1 2 6.42516825022p
Rs 1 N3 7.08
L1 N3 2 3300u
.ends 8095_768772332_3.3m
*******
.subckt 8095_768772102_1000u 1 2
Rp 1 2 270157.226666667
Cp 1 2 8.28927994p
Rs 1 N3 1.7
L1 N3 2 1000u
.ends 8095_768772102_1000u
*******
.subckt 8095_768772122_1200u 1 2
Rp 1 2 302742.893
Cp 1 2 8.73926224p
Rs 1 N3 2.2
L1 N3 2 1200u
.ends 8095_768772122_1200u
*******
.subckt 8095_768772152_1500u 1 2
Rp 1 2 351045.13
Cp 1 2 8.7066177p
Rs 1 N3 2.6
L1 N3 2 1500u
.ends 8095_768772152_1500u
*******
.subckt 8095_768772182_1800u 1 2
Rp 1 2 308544.66
Cp 1 2 6.7518307p
Rs 1 N3 2.7
L1 N3 2 1800u
.ends 8095_768772182_1800u
*******
.subckt 8095_768772221_220u 1 2
Rp 1 2 188767.92
Cp 1 2 8.4426323p
Rs 1 N3 0.5
L1 N3 2 220u
.ends 8095_768772221_220u
*******
.subckt 8095_768772222_2200u 1 2
Rp 1 2 668092.28
Cp 1 2 7.86649152p
Rs 1 N3 3.9
L1 N3 2 2200u
.ends 8095_768772222_2200u
*******
.subckt 8095_768772331_330u 1 2
Rp 1 2 237487.15
Cp 1 2 7.8210842p
Rs 1 N3 0.6
L1 N3 2 330u
.ends 8095_768772331_330u
*******
.subckt 8095_768772471_470u 1 2
Rp 1 2 262541.603
Cp 1 2 8.64816708p
Rs 1 N3 1.1
L1 N3 2 470u
.ends 8095_768772471_470u
*******
.subckt 8095_768772681_680u 1 2
Rp 1 2 233293.129
Cp 1 2 8.98954749p
Rs 1 N3 1.4
L1 N3 2 680u
.ends 8095_768772681_680u
*******
.subckt 8095_768772821_820u 1 2
Rp 1 2 334347.253
Cp 1 2 7.97263465p
Rs 1 N3 1.6
L1 N3 2 820u
.ends 8095_768772821_820u
*******
