**************************************************
* Manufacturer:       Wurth Elektronik 
* Kinds:     XtremehighCurrentMolded Inductor
* Matchcode:          WE-XHMI
* Library Type:       spice
* Version:        rev19b
* Created/modified by:    Fredo       
* Date and Time   :       6/20/2019
* Team:           eiSos EDA Service  
* Contact:        libraries@we-online.com
**************************************************
.subckt 1090_74439369082_8.2u 1 2
Rp 1 2 2661
Cp 1 2 15.347p
Rs 1 N3 0.0101
L1 N3 2 8.2u
.ends 1090_74439369082_8.2u
*******
.subckt 1090_74439369100_10u 1 2
Rp 1 2 1948
Cp 1 2 23.752p
Rs 1 N3 0.0114
L1 N3 2 10u
.ends 1090_74439369100_10u
*******
.subckt 1090_74439369150_15u 1 2
Rp 1 2 1540
Cp 1 2 29.209p
Rs 1 N3 0.0148
L1 N3 2 15u
.ends 1090_74439369150_15u
*******
.subckt 1510_74439370330_33u 1 2
Rp 1 2 5049
Cp 1 2 27.838p
Rs 1 N3 0.01805
L1 N3 2 33u
.ends 1510_74439370330_33u
*******
.subckt 6030_74439344047_4.7u 1 2
Rp 1 2 1068
Cp 1 2 8.912p
Rs 1 N3 0.031
L1 N3 2 4.7u
.ends 6030_74439344047_4.7u
*******
.subckt 1090_74439369022_2.2u 1 2
Rp 1 2 742.944641744
Cp 1 2 22.971589849p
Rs 1 N3 0.0022
L1 N3 2 1.96u
.ends 1090_74439369022_2.2u
*******
.subckt 1090_74439369033_3.3u 1 2
Rp 1 2 1246.3290339
Cp 1 2 19.577956071p
Rs 1 N3 0.0034
L1 N3 2 3.1u
.ends 1090_74439369033_3.3u
*******
.subckt 1090_74439369047_4.7u 1 2
Rp 1 2 1900
Cp 1 2 19.455888258p
Rs 1 N3 0.0054
L1 N3 2 4.46u
.ends 1090_74439369047_4.7u
*******
.subckt 1090_74439369056_5.6u 1 2
Rp 1 2 1600
Cp 1 2 24.222408184p
Rs 1 N3 0.0064
L1 N3 2 5.26u
.ends 1090_74439369056_5.6u
*******
.subckt 1090_74439369068_6.8u 1 2
Rp 1 2 2500
Cp 1 2 22.232688036p
Rs 1 N3 0.0076
L1 N3 2 6.37u
.ends 1090_74439369068_6.8u
*******
.subckt 1510_74439370047_4.7u 1 2
Rp 1 2 1200
Cp 1 2 35.102811146p
Rs 1 N3 0.0035
L1 N3 2 4.66u
.ends 1510_74439370047_4.7u
*******
.subckt 1510_74439370068_6.8u 1 2
Rp 1 2 1000
Cp 1 2 50.00395572p
Rs 1 N3 0.0041
L1 N3 2 6.07u
.ends 1510_74439370068_6.8u
*******
.subckt 1510_74439370082_8.2u 1 2
Rp 1 2 1500
Cp 1 2 32.575476948p
Rs 1 N3 0.0065
L1 N3 2 7.99u
.ends 1510_74439370082_8.2u
*******
.subckt 1510_74439370100_10u 1 2
Rp 1 2 1800
Cp 1 2 39.14305505p
Rs 1 N3 0.0065
L1 N3 2 8.99u
.ends 1510_74439370100_10u
*******
.subckt 1510_74439370150_15u 1 2
Rp 1 2 2500
Cp 1 2 36.190554439p
Rs 1 N3 0.0113
L1 N3 2 15.07u
.ends 1510_74439370150_15u
*******
.subckt 1510_74439370220_22u 1 2
Rp 1 2 1500
Cp 1 2 53.497103741p
Rs 1 N3 0.0133
L1 N3 2 20.56u
.ends 1510_74439370220_22u
*******
.subckt 6030_744393440018_0.18u 1 2
Rp 1 2 105
Cp 1 2 4.983782339p
Rs 1 N3 0.00132
L1 N3 2 0.18u
.ends 6030_744393440018_0.18u
*******
.subckt 6030_744393440033_0.33u 1 2
Rp 1 2 613.059659955
Cp 1 2 6.984712848p
Rs 1 N3 0.0021
L1 N3 2 0.31u
.ends 6030_744393440033_0.33u
*******
.subckt 6030_744393440056_0.56u 1 2
Rp 1 2 136.093
Cp 1 2 5p
Rs 1 N3 0.0029
L1 N3 2 0.52u
.ends 6030_744393440056_0.56u
*******
.subckt 6030_74439344010_1u 1 2
Rp 1 2 290
Cp 1 2 10p
Rs 1 N3 0.0055
L1 N3 2 1.1u
.ends 6030_74439344010_1u
*******
.subckt 6030_74439344012_1.2u 1 2
Rp 1 2 294.194546822
Cp 1 2 9.22129362102p
Rs 1 N3 0.0064
L1 N3 2 1.11u
.ends 6030_74439344012_1.2u
*******
.subckt 6030_74439344022_2.2u 1 2
Rp 1 2 500
Cp 1 2 10p
Rs 1 N3 0.0105
L1 N3 2 2.07u
.ends 6030_74439344022_2.2u
*******
.subckt 6030_74439344033_3.3u 1 2
Rp 1 2 663.815876925
Cp 1 2 8.387890992p
Rs 1 N3 0.0192
L1 N3 2 2.95u
.ends 6030_74439344033_3.3u
*******
.subckt 6060_74439346047_4.7u 1 2
Rp 1 2 1724
Cp 1 2 9.584p
Rs 1 N3 0.013
L1 N3 2 4.32u
.ends 6060_74439346047_4.7u
*******
.subckt 6060_74439346056_5.6u 1 2
Rp 1 2 2119
Cp 1 2 8.498p
Rs 1 N3 0.015
L1 N3 2 5.74u
.ends 6060_74439346056_5.6u
*******
.subckt 6060_74439346068_6.8u 1 2
Rp 1 2 1864
Cp 1 2 12.66p
Rs 1 N3 0.0176
L1 N3 2 6.59u
.ends 6060_74439346068_6.8u
*******
.subckt 6060_74439346082_8.2u 1 2
Rp 1 2 2227
Cp 1 2 11.214p
Rs 1 N3 0.023
L1 N3 2 8.36u
.ends 6060_74439346082_8.2u
*******
.subckt 6060_74439346100_10u 1 2
Rp 1 2 2780
Cp 1 2 13.396p
Rs 1 N3 0.0265
L1 N3 2 11.18u
.ends 6060_74439346100_10u
*******
.subckt 8080_74439358010_1u 1 2
Rp 1 2 2400
Cp 1 2 12p
Rs 1 N3 0.0021
L1 N3 2 1.1u
.ends 8080_74439358010_1u
*******
.subckt 8080_74439358022_2.2u 1 2
Rp 1 2 707
Cp 1 2 15p
Rs 1 N3 0.0037
L1 N3 2 2.2u
.ends 8080_74439358022_2.2u
*******
.subckt 8080_74439358047_4.7u 1 2
Rp 1 2 1900
Cp 1 2 13.4p
Rs 1 N3 0.00865
L1 N3 2 4.5u
.ends 8080_74439358047_4.7u
*******
.subckt 8080_74439358068_6.8u 1 2
Rp 1 2 3500
Cp 1 2 13.6p
Rs 1 N3 0.0135
L1 N3 2 6.8u
.ends 8080_74439358068_6.8u
*******
.subckt 8080_74439358100_10u 1 2
Rp 1 2 4400
Cp 1 2 11.7p
Rs 1 N3 0.02
L1 N3 2 9.1u
.ends 8080_74439358100_10u
*******
