* C:\2_WorkDir\LT_SPICE\GitRepository\LTspice\Self_built\LTspice\Wurth_Elektronik_Power_Magnetics_rev19b\lib\sym\Wurth_Elektronik\Power_Magnetics\WE-FB\Draft1.asc
I1 N001 0 AC 1
XU1 N001 0 850617021001_5F
.ac dec 50 1 1g
.lib WCAP-STSC.lib
.backanno
.end
